US08404866B2
To a stirred solution of PPh3 (525 mg, 2.0 mmol) in THF (3 mL) at 0° C. was added DEAD (315 μL, 2.0 mmol) dropwise. After 10 min, a solution of (3S,4R)—N-Boc-3-(4-phenoxybenzenesulfonamido)-4-hydroxypyrrolidine (435 mg, 1.0 mmol) and thiolacetic acid (228 μL, 2.29 mmol) in THF (3 mL) was added. The resulting reaction mixture was stirred at room temperature for 6 hr, then it was concentrated under reduced pressure. The residue was purified be flash chromatography (15% ethyl acetate in hexane) to give (3S,4S)—N-Boc-3-(4-phenoxybenzenesulfonamido)-4-acetylthiopyrrolidine (400 mg, 81%): 1H NMR (300 MHz, CDCl3) δ 7.80 (d, J=9, 2H), 7.42 (m, 2H), 7.23 (t, J=8, 1H), 7.06 (m, 4H), 5.21 & 5.00 (br s, 1H, NH), 3.75 (m, 4H), 3.16 (m, 2H), 2.31 & 2.25 (br s, 3H), 1.44 (s, 9H); [α]20D=+22.8° (c=0.62, CHCl3).

reactant | PPh3 | 2.0 mmol, 525 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 2.0 mmol, 315 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | (3S,4R)—N-Boc-3-(4-phenoxybenzenesulfonamido)-4-hydroxypyrrolidine | 1.0 mmol, 435 mg | C(=O)(OC(C)(C)C)N1C[C@@H]([C@@H](C1)O)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C21H26N2O6S
reactant | thiolacetic acid | 2.29 mmol, 228 μL | S1C(=CC=C1)CC(=O)O | C6H6O2S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (3S,4S)—N-Boc-3-(4-phenoxybenzenesulfonamido)-4-acetylthiopyrrolidine | 400 mg, 81% | C(=O)(OC(C)(C)C)N1C[C@@H]([C@H](C1)SC(C)=O)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C23H28N2O6S2
